US07300944B2
4-(4-Chloro-phenyl)-3-cyclobutyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one
To 5-cyclobutyl-1H-pyrazol-3-ylamine (1.0 g, 7.3 mmol) in EtOH (20 mL) was added 4-chlorobenzaldehyde (1.1 g, 8.0 mmol) followed by Meldrum's Acid (1.1 g, 8.0 mmol). The reaction mixture was then heated to 75° C. (oil bath). After 30 min, the reaction was cooled to room temperature, the solid was filtered off, and then washed with MeOH (5 mL) and hexanes (10 mL). The solid was collected and dried under reduced pressure to give the title compound (1.3 g, 59% yield) as a colorless solid. 500 MHz 1H NMR (DMSO-d6) d 12.0 (s, 1H), 10.3 (s, 1H), 7.34 (d, J=8.7 Hz, 2H), 7.11 (d, J=8.3 Hz, 2H), 4.20 (dd, J=7.1, 4.2 Hz, 1H), 3.17 (dddd, J=8.7, 8.7, 8.7, 8.7 Hz, 1H), 2.84 (dd, 15.8, 7.1 Hz, 1H), 2.44 (dd, J=16.2, 4.6 Hz, 1H), 2.09-1.87 (m, 4H), 1.83-1.69 (m, 1H), 1.68-1.61 (m, 1H). 13C NMR (125 Mz, DMSO-d6) d 169.8, 149.5, 144.1, 142.8, 131.7, 129.4, 129.2, 101.1, 41.3, 33.9, 31.0, 28.8, 28.4, 18.7. LRMS m/z (APCI+) 303 (M+1).

reactant | 5-cyclobutyl-1H-pyrazol-3-ylamine | 7.3 mmol, 1.0 g | C1(CCC1)C1=CC(=NN1)N | C7H11N3
reactant | 4-chlorobenzaldehyde | 8.0 mmol, 1.1 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | Meldrum's Acid | 8.0 mmol, 1.1 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(4-Chloro-phenyl)-3-cyclobutyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one | 1.3 g, 59% yield | ClC1=CC=C(C=C1)C1C=2C(NC(C1)=O)=NNC2C2CCC2 | C16H16ClN3O
